US07947851B2
Step c) Formation of 5-{[{4-[(4-butylphenyl)ethynyl]benzoyl}(hexyl)amino]methyl}-2-fluorobenzoic acid
To a solution of methyl 5-{[{4-[(4-butylphenyl)ethynyl]benzoyl}(hexyl)amino]methyl}-2-fluorobenzoate (350 mg; 0.66 mmol) in THF (7 mL) were added lithium hydroxide monohydride (278 mg; 6.63 mmol) and water (3 mL).The reaction mixture was stirred under MW at 100° C. for 2500 s. Then an aqueous solution of HCl 1N (10 mL) was added and the mixture extracted with EtOAc (2×50 mL). The combined organic layers were washed with brine (100 mL), dried over magnesium sulfate and the solvent was removed under reduced pressure to give 316 mg (93%) of the title compound as a colorless oil. HPLC, Rt: 5.64 min (purity=98.7%). LC/MS: M+(ESI): 514, 1H NMR (MeOD) δ: 7.88 (m, 1H), 7.50 (d, J=7.9 Hz, 2H), 7.33 (d, J=9.0 Hz, 5H), 7.1 (d, J=7.9 Hz, 3H), 4.78 (m, 1H), 4.60 (m, 1H), 2.54 (t, J=7.5 Hz, 2H), 1.51 (q, J=7.6 Hz, 5H), 1.38 (s, 3H), 1.14 (t, J=7.16 Hz, 4H), 1.02 (m, 3H).

reactant | methyl 5-{[{4-[(4-butylphenyl)ethynyl]benzoyl}(hexyl)amino]methyl}-2-fluorobenzoate | 0.66 mmol, 350 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(C(=O)N(CCCCCC)CC=2C=CC(=C(C(=O)OC)C2)F)C=C1 | C34H38FNO3
reactant | lithium hydroxide monohydride | 6.63 mmol, 278 mg | [H-].[OH-].[Li+]
reactant | water | 3 mL | O | H2O
reactant | HCl | 1N, 10 mL | Cl | ClH
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 5-{[{4-[(4-butylphenyl)ethynyl]benzoyl}(hexyl)amino]methyl}-2-fluorobenzoic acid | 316 mg, 93% | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(C(=O)N(CCCCCC)CC=2C=CC(=C(C(=O)O)C2)F)C=C1 | C33H36FNO3
